US05382379
A suspension of methoxymethyltriphenylphosphonium chloride (112.3 g) in THF (300 ml) was stirred in a nitrogen gas stream, followed by adding potassium-t-butoxide (45.4 g) little by little while cooling at 0° C., stirring the reaction solution at room temperature for one hour, dropwise adding 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexanone (70 g)in THF (200 ml), raising the temperature of the reaction mixture up to room temperature, further stirring for 2 hours, adding to water (500 ml) after completion of the reaction, extracting with ethyl acetate (500 ml), drying the organic layer over anhydrous MgSO4, concentrating under reduced pressure, and carrying out chromatography treatment on silica gel with ethyl acetate/heptane (1:5), to obtain 4-(2'-(3",4",5"-trifluorophenyl)ethyl)methoxymethylenecyclohexane (53.7 g).

reactant | methoxymethyltriphenylphosphonium chloride | 112.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 45.4 g | CC(C)([O-])C.[K+]
reactant | 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexanone | 70 g | FC=1C=C(C=C(C1F)F)CCC1CCC(CC1)=O | C14H15F3O
reactant | water | 500 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(2'-(3",4",5"-trifluorophenyl)ethyl)methoxymethylenecyclohexane | 53.7 g | FC=1C=C(C=C(C1F)F)CCC1CCC(CC1)=COC | C16H19F3O
